US08202865B2
Step 1: tert-butyl [(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)oxy]acetate
To a solution of (3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)methanol, prepared as in example 159, step 1, (500 mg, 1.29 mmol) in toluene (10 mL) were added tert-butyl bromoacetate (215 μl, 1.45 mmol) and tetrabutylammonium hydrogen sulfate (45 mg, 0.13 mmol), followed by a 33% aqueous solution of sodium hydroxide (10 mL). The biphasic mixture was stirred strongly at RT for 45 minutes. The aqueous layer was removed. The organic layer was diluted with Et2O (20 mL) and washed with water (10 mL), then brine (10 mL). The organic layer was dried (MgSO4) and the solvents were removed under reduced pressure to give a yellow oil. This oil was purified by flash chromatography on silica (cHex/EtOAc) to give the title compound as a colorless oil. LC/MS (Method A): 501.4 (M+H)+. HPLC (Method A) Rt: 6.52 min (purity: 99.5%).

reactant | (3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)methanol | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C=CC1)CO)C1=C(C=CC=C1)C | C24H22N2O3
reactant | tert-butyl bromoacetate | 1.45 mmol, 215 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 0.13 mmol, 45 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl [(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)oxy]acetate | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(COCC(=O)OC(C)(C)C)C=CC1)C1=C(C=CC=C1)C | C30H32N2O5
